US08304557B2
tert-butyl {3-[(6-aminopyridin-3-yl)oxy]-4-methylphenyl}carbamate
To a solution of tert-butyl {4-methyl-3-[(6-nitropyridin-3-yl)oxy]phenyl}carbamate (1.85 g, 5.35 mmol) in methanol (10 mL) was added palladium carbon (50% water-containing product, 100 mg), and the mixture was stirred under a hydrogen atmosphere at room temperature for 3 hr. The reaction mixture was filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was dried to give the title compound (1.69 g, 99%) as a colorless oil.

reactant | tert-butyl {4-methyl-3-[(6-nitropyridin-3-yl)oxy]phenyl}carbamate | 5.35 mmol, 1.85 g | CC1=C(C=C(C=C1)NC(OC(C)(C)C)=O)OC=1C=NC(=CC1)[N+](=O)[O-] | C17H19N3O5
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium carbon | 100 mg | [C].[Pd]
product | tert-butyl {3-[(6-aminopyridin-3-yl)oxy]-4-methylphenyl}carbamate | 1.69 g, 99% | NC1=CC=C(C=N1)OC=1C=C(C=CC1C)NC(OC(C)(C)C)=O | C17H21N3O3
